US07407949B2
5-(4-(4-(2-Hydroxyethyl)piperazine-1-carbonylaminomethyl)-3-methylbenzoyl)-1-methyl-4,10-dihydropyrazolo[5,4-b][1,5]benzodiazepine
1,1′-Carbonyldiimidazole (20 mg, 0.19 mmol) was added to a solution of 5-(4-(aminomethyl)-3-methylbenzoyl)-1-methyl-4,10-dihydropyrazolo-[5,4-b][1,5]benzodiazepine (31 mg, 0.09 mmol) in DMF (3 ml). The solution was stirred at room temperature for 1 h, a solution of 1-(2-hydroxyethyl)-piperazine (13 mg, 0.10 mmol) in DMF (2 ml) was added and stirring was continued for 72 h. The solution was concentrated in vacuo and the residue was partitioned between chloroform and brine. The organic layer was separated and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant 7% methanol/chloroform) to give a white solid identified as 5-(4-(4-(2-hydroxyethyl)piperazine-1-carbonylaminomethyl)-3-methylbenzoyl)-1-methyl-4,10-dihydropyrazolo[5,4-b][1,5](22 mg, 48%).

reactant | 1,1′-Carbonyldiimidazole | 0.19 mmol, 20 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-(4-(aminomethyl)-3-methylbenzoyl)-1-methyl-4,10-dihydropyrazolo-[5,4-b][1,5]benzodiazepine | 0.09 mmol, 31 mg | NCC1=C(C=C(C(=O)N2CC3=C(NC4=C2C=CC=C4)N(N=C3)C)C=C1)C | C20H21N5O
reactant | 1-(2-hydroxyethyl)-piperazine | 0.10 mmol, 13 mg | OCCN1CCNCC1 | C6H14N2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-(4-(4-(2-Hydroxyethyl)piperazine-1-carbonylaminomethyl)-3-methylbenzoyl)-1-methyl-4,10-dihydropyrazolo[5,4-b][1,5]benzodiazepine | OCCN1CCN(CC1)C(=O)NCC1=C(C=C(C(=O)N2CC3=C(NC4=C2C=CC=C4)N(N=C3)C)C=C1)C | C27H33N7O3
